US07763584B2
To a solution of (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid, ethyl ester (0.84 g, 1.30 mmoL) in THF (30 mL), methanol (15 mL), and water (4 mL), was added powdered lithium hydroxide hydrate (0.31 g, 12.90 mmoL). The resultant light yellow slurry was stirred at rt under N2 overnight. The mixture was then concentrated in vacuo, and partitioned between hexane/ether (1:1) and water. The organic phase was discarded, and the aqueous phase was treated with 1 N HCl until pH 5. This acidic solution was extracted with EtOAc (3×). The combined EtOAc extracts were dried (MgSO4) and concentrated in vacuo to give 0.495 g (61%) of (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid as an off-white solid: LC-MS (Phenomenex 10 μm C18 HPLC column: 3.0×50 mm length. Gradient: 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B. Gradient time: 2 min. Hold time: 1 min. Flow rate: 5 mL/min. Detector Wavelength: 220 nM. Solvent A: 10% MeOH/90% H2O/0.1% TFA. Solvent B: 10% H2O/90% MeOH/0.1% TFA.) (Retention time: 2.36 min), MS m/z 621 (M++1).

reactant | (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid, ethyl ester | 0.84 g | C(C)(C)(C)OC(=O)N[C@H]1CNCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC | C30H52N4O7Si
reactant | water | 4 mL | O | H2O
reactant | lithium hydroxide hydrate | 0.31 g | O.[OH-].[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | 0.495 g, 61% | C(C)(C)(C)OC(=O)N[C@H]1CNCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)O | C28H48N4O7Si
